US04546174
2,2'-Azobis(2-methyl-propanenitrile)
3 ml of `Arquad 16-29` is added, followed by 2.2 equivalents of caustic soda. While maintaining the temperature at 20° C., 26 mg of 2-amino-2-methyl-propanenitrile is added over 20 minutes and the title compound is isolated as in Example 1. Yield 96%.

reactant | caustic soda | 2.2 equivalents | [OH-].[Na+]
reactant | 2-amino-2-methyl-propanenitrile | 26 mg | NC(C#N)(C)C | C4H8N2
catalyst | Arquad 16-29 | CCCCCCCCCCCCCCCC[N+](C)(C)C.[Cl-]
product | 2,2'-Azobis(2-methyl-propanenitrile) | Yield 96% | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
